US07585574B2
4.92 g (20 mmol) of pyrene-1-boronic acid, 5.94 g (21 mmol) of 3-bromoiodobenzene, and 0.46 g (0.4 mmol, 2 mol %) of tetrakis(triphenylphosphine)palladium(0) were loaded into a 300-ml three-necked flask, and air in the container was replaced with argon. Further, 10 ml of toluene and 30 ml (3 eq) of a 2M aqueous solution of sodium carbonate were added to the mixture, and the whole was refluxed under heat in an oil bath at 100° C. for 8 hours. After one night, the resultant was extracted with toluene/ion-exchanged water and purified by column chromatography, whereby 5.61 g of 3-pyrenylbromobenzene were obtained (79% yield).

reactant | pyrene-1-boronic acid | 20 mmol, 4.92 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)B(O)O | C16H11BO2
reactant | 3-bromoiodobenzene | 21 mmol, 5.94 g | BrC=1C=C(C=CC1)I | C6H4BrI
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.4 mmol, 0.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-pyrenylbromobenzene | 5.61 g, 79% yield | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C=3C=C(C=CC3)Br | C22H13Br
